US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-HYDROXY-3,3-DIMETHYLBUTYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-hydroxy-3,3-dimethylbutyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a brown solid (75% yield). m.p. 236-240° C. 1H NMR (300 MHZ, CDCl3) δ 7.90, 7.83-7.79, 7.75-7.73, 7.69-7.65, 7.54-7.52, 7.30, 4.29, 3.91-3.73, 3.43-3.32, 3.20-3.11, 2.81, 2.77, 0.95. MS (ES+) m/z 480 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-hydroxy-3,3-dimethylbutyl)amide | OC(CNC(=O)C=1N=NC(=CC1)Cl)C(C)(C)C | C11H16ClN3O2
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-HYDROXY-3,3-DIMETHYLBUTYL)AMIDE | OC(CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C(C)(C)C | C23H28F3N5O3
